US07566724B2
In the same manner as in Example 1, 2-(2,6-difluorobenzamido)pent-4-enoic acid methyl ester (17 mg) was reacted with 3-(N-(4-iodophenyl)-N-(pyrimidin-2-yl)amino)propanenitrile (24 mg) to obtain ((E)-5-[4-((2-cyano-ethyl)-pyrimidin-2-yl-amino)-phenyl]-2-(2,6-difluorobenzamido)-pent-4-enoic acid methyl ester (18 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1) was used for purification.

reactant | 2-(2,6-difluorobenzamido)pent-4-enoic acid methyl ester | 17 mg | COC(C(CC=C)NC(C1=C(C=CC=C1F)F)=O)=O | C13H13F2NO3
reactant | 3-(N-(4-iodophenyl)-N-(pyrimidin-2-yl)amino)propanenitrile | 24 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CCC#N | C13H11IN4
product | (E)-5-[4-((2-cyano-ethyl)-pyrimidin-2-yl-amino)-phenyl]-2-(2,6-difluorobenzamido)-pent-4-enoic acid methyl ester | 18 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CCC#N)NC(C1=C(C=CC=C1F)F)=O)=O | C26H23F2N5O3
